US06894061B2
1-(2′,5′,5-Trifluoro-1,1′-biphenyl-2-yl)ethylamine
The title compound was prepared from 1-(2′,5′,5-trifluoro-1,1′-biphenyl-2-yl)ethanone (650 mg, 2.6 mmol), anhydrous methanol (10 mL), ammonium acetate (4.0 g, 52 mmol), and sodium cyanoborohydride (326 g, 5.2 mmol) according to the procedure and in the same manner as described in Example 105, step b. The crude amine was immediately used without further purification in Example 116, step c;

reactant | 1-(2′,5′,5-trifluoro-1,1′-biphenyl-2-yl)ethanone | 2.6 mmol, 650 mg | FC1=C(C=C(C=C1)F)C1=C(C=CC(=C1)F)C(C)=O | C14H9F3O
reactant | ammonium acetate | 52 mmol, 4.0 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 5.2 mmol, 326 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 1-(2′,5′,5-Trifluoro-1,1′-biphenyl-2-yl)ethylamine | FC1=C(C=C(C=C1)F)C1=C(C=CC(=C1)F)C(C)N | C14H12F3N
